US07915411B2
A solution of 4-chloro-3-nitro-phenol was reacted with 2-Chloro-5-chloromethyl-thiophene using the conditions described in Example 10C to provide 2-Chloro-5-(4-chloro-3-nitro-phenoxymethyl)-thiophene which was treated sequentially using the procedures from Examples 10D and 10E to provide the title product.

reactant | 4-chloro-3-nitro-phenol | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 2-Chloro-5-chloromethyl-thiophene | ClC=1SC(=CC1)CCl | C5H4Cl2S
product | 2-Chloro-5-(4-chloro-3-nitro-phenoxymethyl)-thiophene | ClC=1SC(=CC1)COC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C11H7Cl2NO3S
